US09278950B2
Step 7. 3-Amino-7-ethylquinoline-2-carboxylic acid
To a solution of 3-{[(benzyloxy)carbonyl]amino}-7-vinylquinoline-2-carboxylic acid (673.9 mg, 1.934 mmol) in MeOH (25.0 mL) was added 10 wt % Pd on carbon (100.1 mg, 0.09406 mmol). The mixture was stirred at room temperature hydrogen (1 atm) for 15 h. The reaction mixture was filtered through a pad of diatomaceous earth (eluted with MeOH) and then concentrated under reduced pressure. The resulting crude sub-title compound was used directly in the next step residue without further purification (380.6 mg, 91%). LCMS calc. for C12H13N2O2 (M+H)+: m/z=217.1. found 217.0.

reactant | 3-{[(benzyloxy)carbonyl]amino}-7-vinylquinoline-2-carboxylic acid | 1.934 mmol, 673.9 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)C=C)C(=O)O | C20H16N2O4
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 25.0 mL | CO | CH4O
catalyst | Pd on carbon | 0.09406 mmol, 100.1 mg | [Pd] | Pd
product | 3-Amino-7-ethylquinoline-2-carboxylic acid | NC=1C(=NC2=CC(=CC=C2C1)CC)C(=O)O | C12H12N2O2
